US05482967
A mixture of 2-benzoyl-4,5-dimethylbenzoic acid (11.4 g), acetone (300 ml), DMF (10 ml), potassium carbonate (6.83 g) and diethyl bromomalonate (12.84 g) was stirred at room temperature for 60 hours. After the solvent was distilled off, ethyl acetate was added to the residue. This mixture was washed with water and dried, after which the solvent was distilled off. To the residue were added acetic acid (180 ml) and hydrochloric acid (180 ml), followed by heating at 110° C. for 5 hours. After the reaction mixture was concentrated, water was added to the concentrate, followed by extraction with ethyl acetate. The extract was washed with water and then dried, after which the solvent was distilled off, to yield colorless crystals, which were recrystallized from ethyl acetate-isopropyl ether, to yield 6,7-dimethyl-1-oxo-4-phenyl-1H-2-benzopyran-3-carboxylic acid.

reactant | 2-benzoyl-4,5-dimethylbenzoic acid | 11.4 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=C(C(=C1)C)C | C16H14O3
reactant | acetone | 300 ml | CC(=O)C | C3H6O
reactant | potassium carbonate | 6.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl bromomalonate | 12.84 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6,7-dimethyl-1-oxo-4-phenyl-1H-2-benzopyran-3-carboxylic acid | CC=1C(=CC2=C(C(=C(OC2=O)C(=O)O)C2=CC=CC=C2)C1)C | C18H14O4
